US09029560B2
Preparation of 1-[(4-fluoro-2-isopropyl-phenyl)carbamothioyl]-3-[3-[3-[1-[4-(trifluoromethoxy)phenyl]-1H-1,2,4-triazol-3-yl]phenyl]propyl]urea (PC129)
The title compound was prepared as described in Example 63 using 3-(3-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propan-1-amine (CA18) and 1-(4-fluoro-2-isopropylphenyl)thiourea. Sodium acetate was used in place of sodium bicarbonate. The title compound was isolated as a white solid (0.140 g, 41%): 1H NMR (400 MHz, DMSO-d6) δ 11.85 (s, 1H), 10.11 (s, 1H), 9.41 (s, 1H), 8.13-8.04 (m, 2H), 8.02-7.92 (m, 2H), 7.61 (dq, J=7.8, 1.0 Hz, 2H), 7.46 (t, J=7.6 Hz, 1H), 7.43-7.31 (m, 2H), 7.15 (dd, J=10.4, 3.0 Hz, 1H), 7.10 (t, J=5.6 Hz, 1H), 7.03 (td, J=8.5, 3.0 Hz, 1H), 3.26-3.10 (m, 2H), 2.97 (pd, J=6.9, 1.6 Hz, 1H), 2.73 (dd, J=8.5, 6.7 Hz, 2H), 1.90-1.76 (m, 2H), 1.15 (d, J=6.8 Hz, 6H); 19F NMR (376 MHz, DMSO-d6) δ −56.97, −114.41; ESIMS m/z 601 ([M+H]+), 599 ([M−H]−).

reactant | 3-(3-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propan-1-amine | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C=1C=C(C=CC1)CCCN)(F)F | C18H17F3N4O
reactant | 1-(4-fluoro-2-isopropylphenyl)thiourea | FC1=CC(=C(C=C1)NC(=S)N)C(C)C | C10H13FN2S
reactant | Sodium acetate | C(C)(=O)[O-].[Na+]
product | 1-[(4-fluoro-2-isopropyl-phenyl)carbamothioyl]-3-[3-[3-[1-[4-(trifluoromethoxy)phenyl]-1H-1,2,4-triazol-3-yl]phenyl]propyl]urea | FC1=CC(=C(C=C1)NC(=S)NC(=O)NCCCC1=CC(=CC=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F)C(C)C | C29H28F4N6O2S
